US03950333
Reacting N-(2-thiazolylmethyl)ethylenediamine with ethyl isothiocyanate by the procedure of Example 3(b) and then chromatographing gives N-ethyl-N'-[2-(2-thiazolylmethylamino)ethyl]thiourea. Reacting this thiourea with lead cyanamide by the procedure of Example 3(b) gives N-cyano-N'-ethyl-N"-[2-(2-thiazolylmethylamino)ethyl]-guanidine.

reactant | N-(2-thiazolylmethyl)ethylenediamine | S1C(=NC=C1)CNCCN | C6H11N3S
reactant | ethyl isothiocyanate | C(C)N=C=S | C3H5NS
product | N-ethyl-N'-[2-(2-thiazolylmethylamino)ethyl]thiourea | C(C)NC(=S)NCCNCC=1SC=CN1 | C9H16N4S2
